US05514680
B. 3-Acetamido-6-chloro-4-nitrobenzotrifluoride
To 3-acetamido-6-chlorobenzotrifluoride (908 mg, 3.82 mmol) in concentrated H2SO4 (4 mL) at 0° C. was added dropwise 70% HNO3 (0.5 mL, Baker). The mixture was stirred at 0° C. for 0.5 h, then at room temperature 3 h, and it was poured into ice water (15 g). The precipitate was collected by filtration, affording 990 mg (91%) of crude 3-acetamido-6-chloro-4-nitrobenzofluoride. It was crystallized. from EtOH/H2O to give 770 mg of pure compound as yellow needles. 1H NMR (CDCl3): δ2.326 (s, 3H), 8.345 (s, 1H), 9.293 (s, 1H), 10.222 (s, 1H).

reactant | 3-acetamido-6-chlorobenzotrifluoride | 3.82 mmol, 908 mg | C(C)(=O)NC=1C=C(C(=CC1)Cl)C(F)(F)F | C9H7ClF3NO
reactant | HNO3 | 0.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 4 mL | OS(=O)(=O)O | H2O4S
product | 3-Acetamido-6-chloro-4-nitrobenzotrifluoride | 770 mg | C(C)(=O)NC=1C=C(C(=CC1[N+](=O)[O-])Cl)C(F)(F)F | C9H6ClF3N2O3
